US07470705B2
Add 2-bromoethanol (0.093 mL, 1.25 mmol) to a solution of (+/−)-cis-4-(3,5-bis-trifluoromethyl-benzyl-(2H-tetrazol-5-yl)amino)-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester (653 mg, 1.045 mmol) and cesium carbonate (749 mg, 2.30 mmol) in dry dimethylformamide under an atmosphere of nitrogen and stir the mixture at 50° C. for 24 h. Cool to room temperature, add water, and extract with ethyl acetate. Dry the organic solvent over sodium sulfate, filter, and remove the solvent under reduced pressure. Purify the residue by silica gel chromatography, eluting with ethyl acetate/hexanes to afford a mixture of two compounds. Separate by normal phase HPLC eluting with standard hexane/ethanol gradient to afford (+/−)-trans-4-[(3,5-bis-trifluoromethyl-benzyl)-[2-(2-hydroxy-ethyl)-2H-tetrazol-5-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1carboxylic acid isopropyl ester (48 mg, 7%). 1H NMR (CDCl3, 300 MHz): δ 0.95 (t, J=7.7 Hz, 3H), 1.33 (d, J=6.3 Hz, 3H), 1.35 (d, J=6.3 Hz, 3H), 1.55-1.69 (m, 2H), 2.31-2.47 (m, 3H), 3.98-4.00 (m, 2H), 4.49-4.73 (m, 5H), 5.09 (septuplet, J=7.5 Hz, 1H), 5.41 (dd, J=11.9, 7.5 Hz, 1H), 7.49 (d, J=8.7 Hz, 1H), 7.75 (s, 1H), 7.81 (s, 2H), 8.39 (d, J=8.6 Hz, 1H). MS (ES+): 670 (M+H).

reactant | 2-bromoethanol | 1.25 mmol, 0.093 mL | BrCCO | C2H5BrO
reactant | (+/−)-cis-4-(3,5-bis-trifluoromethyl-benzyl-(2H-tetrazol-5-yl)amino)-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 1.045 mmol, 653 mg | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)C(F)(F)F)N(C=1N=NNN1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C25H24F9N7O2
reactant | cesium carbonate | 2.30 mmol, 749 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (+/−)-trans-4-[(3,5-bis-trifluoromethyl-benzyl)-[2-(2-hydroxy-ethyl)-2H-tetrazol-5-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1carboxylic acid isopropyl ester | 48 mg, 7% | C(C)(C)OC(=O)N1[C@H](C[C@@H](C2=NC(=CC=C12)C(F)(F)F)N(C=1N=NN(N1)CCO)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C27H28F9N7O3
